US06245761B1
Preparation of 1-(piperidin-1-yl)-4-(2-fluoro-5-bromobenzyloxy)butane
A solution of 4-(2-fluoro-5-bromobenzyloxy)butyl bromide (520 mg, 1.53 mmol) in tetrahydrofuran (8 ml) was treated with piperidine (1.5 ml, 15.3 mmol). The resulting reaction mixture was stirred for about 24 hours. The reaction mixture was then diluted with methylene chloride and washed with saturated sodium bicarbonate. The organic fraction was dried over sodium sulfate and the solvents were removed in vacuo. The desired title intermediate was further purified by radial chromatography.

reactant | 4-(2-fluoro-5-bromobenzyloxy)butyl bromide | 1.53 mmol, 520 mg | FC1=C(COCCCCBr)C=C(C=C1)Br | C11H13Br2FO
reactant | piperidine | 15.3 mmol, 1.5 ml | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(piperidin-1-yl)-4-(2-fluoro-5-bromobenzyloxy)butane | N1(CCCCC1)CCCCOCC1=C(C=CC(=C1)Br)F | C16H23BrFNO
